US06472120B1
Synthesis of 2-methyladamantyl acrylate
200 mL of diethyl ether was put into a round-neck flask, 41.5 g of 2-methyl-2-adamantanol and 27.6 g of tetraethyl amine were added thereto and then 22.6 g of acryloyl chloride was dropped. The reactant was reacted at room temperature for about 12 hours and then filtered using diethyl ether. Subsequently, the solvent was removed by an evaporator and then the reactant product was obtained using vacuum distillation (yield: 55%).

reactant | 2-methyl-2-adamantanol | 41.5 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | acryloyl chloride | 22.6 g | C(C=C)(=O)Cl | C3H3ClO
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-methyladamantyl acrylate | yield: 55% | C(C=C)(=O)OC12C(C3CC(CC(C1)C3)C2)C | C14H20O2
